US05604229
Dodecanediol (23.000 g) was dissolved in 230 ml of dry tetrahydrofuran and 40 ml of dichloromethane, and 10 mg of p-toluenesulfonic acid and 9.578 g of dihydropyran were added thereto. The mixture was stirred at room temperature for a day. Triethylamine (1.0 ml) was added thereto to stop the reaction and the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 8.132 g of dodecanediol monotetrahydropyranyl ether.

reactant | Dodecanediol | 23.000 g | C(CCCCCCCCCCC)(O)O | C12H26O2
reactant | dihydropyran | 9.578 g | O1CCCC=C1 | C5H8O
reactant | Triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | dodecanediol monotetrahydropyranyl ether | 8.132 g | O1C(CCCC1)OC(CCCCCCCCCCC)O | C17H34O3
